US06603046B1
17.6 g (0.1 mol) of 4-allyloxyacetophenone and 16.6 g (0.1 mol) of 2,4-dimethoxy-benzaldehyde were under an inert dry atmosphere (argon) dissolved in 100 ml of dry ethanol (freshly distilled from sodium under argon atmosphere). The solution was added 1 g of sodium hydroxide and left under stirring for 18 h. The reaction mixture was filtered to give 29.9 g (97%) of 2,4-dimethoxy-4′-prop-2-enyloxychalcone identical to that obtained in Example 2.22, m.p. 74.5-75° C.

reactant | 4-allyloxyacetophenone | 0.1 mol, 17.6 g | CC(=O)C1=CC=C(C=C1)OCC=C | C11H12O2
reactant | 2,4-dimethoxy-benzaldehyde | 0.1 mol, 16.6 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
product | 2,4-dimethoxy-4′-prop-2-enyloxychalcone | 29.9 g, 97% | COC1=C(C=CC(=C1)OC)C=CC(=O)C1=CC=C(C=C1)OCC=C | C20H20O4
